US04054663
1.8 g. of 2-nitroisonicotinic acid and 30 ml. of thionyl chloride were refluxed for 3 hours. An excess of thionyl chloride was distilled off to leave 2-nitroisonicotinoyl chloride as an oil. The obtained acid chloride was added to 5 ml. of pyridine at -15° C., and to the resulting solution was added 1.5 g. of m-toluylamide. The mixture was stirred at room temperature for one hour and the solvent was evaporated at 40° C under reduced pressure. The residue was then purified by silica gel chromatography and recrystallized from ethyl acetate-n-hexane to yield 250 mg. of the desired crystals.

reactant | 2-nitroisonicotinic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CN1 | C6H4N2O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-nitroisonicotinoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CN1 | C6H3ClN2O3
